US05296486
DL-4-Chlorophenylalanine ethyl ester hydrochloride(5 g, 18.9 mmol) was converted to the free base using triethylamine. A solution of the free base in 75 mL ether was added to a solution of 4-isopropylphenylisothiocyanate in 150 mL ether, cooled on an ice-salt bath. The temperature was maintained at about 0° C. during addition. The reaction was stirred for four and one-half hours, at which time the reaction temperature was 12° C.. The reaction mixture was filtered, the filtrate concentrated, and the resulting foamy residue triturated with petroleum ether while cooling on ice. This resulted in 6.1 g (15.1 mmol, 80%) N-(4-isopropylphenyl)-N'-[2-(4-chlorophenyl)-1-(ethoxycarbonyl)ethyl]thiourea, mp 73°-75° C.

reactant | DL-4-Chlorophenylalanine ethyl ester hydrochloride | 18.9 mmol, 5 g | CCOC(=O)C(CC1=CC=C(C=C1)Cl)N.Cl
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 4-isopropylphenylisothiocyanate | C(C)(C)C1=CC=C(C=C1)N=C=S | C10H11NS
solvent | ether | 75 mL | CCOCC | C4H10O
solvent | ether | 150 mL | CCOCC | C4H10O
product | N-(4-isopropylphenyl)-N'-[2-(4-chlorophenyl)-1-(ethoxycarbonyl)ethyl]thiourea | 15.1 mmol, 6.1 g, 80% | C(C)(C)C1=CC=C(C=C1)NC(=S)NC(CC1=CC=C(C=C1)Cl)C(=O)OCC | C21H25ClN2O2S
